US06982348B2
3) ethyl 3-[4-(benzyloxy)phenyl]-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate
To a solution of 3-(1,1,2,2-tetrafluoroethoxy)toluene (27.8 g, 133 mmol) in ethyl acetate (250 ml) were added N-bromosuccinimide (26.1 g, 147 mmol) and 2,2′-azobis(isobutyronitrile) (440 mg, 2.67 mmol), and the mixture was heated under reflux for 5 hrs. After concentration of the reaction solution, crystals were filtered with hexane and the filtrate was concentrated to give 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene. To a solution of ethyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate (37.8 g, 127 mmol) in 1,2-dimethoxyethane (250 ml) was added sodium hydride (60% in oil, 5.07 g, 127 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene prepared earlier in 1,2-dimethoxyethane (50 ml), and the mixture was stirred overnight at room temperature. The reaction solution was poured into water (500 ml), and the mixture was extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1) and recrystallized from ethyl acetate-hexane to give the objective substance (43.4 g, 68%).

reactant | ethyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate | 127 mmol, 37.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)OCC)=O | C18H18O4
reactant | sodium hydride | 127 mmol, 5.07 g | [H-].[Na+]
reactant | 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene | FC(C(F)F)(OC=1C=C(C=CC1)CBr)F | C9H7BrF4O
reactant | water | 500 ml | O | H2O
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-[4-(benzyloxy)phenyl]-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)=O | C27H24F4O5
